US07618970B2
1-{[(1S,3R)-3-Amino-1-isopropylcyclopentyl]carbonyl}-4-phenylpiperidin-4-ol
tert-Butyl {(1R,3S)-3-[(4-hydroxy-4-phenylpiperidin-1-yl)carbonyl]-3-isopropyl-cyclopentyl}carbamate (0.30 g, 0.70 mmol) was dissolved in a 2.0 M solution of HCl in ether (10 mL). After being stirred for 3.5 h, a few drops of MeOH was added to get a clear solution. The mixture was concentrated to give an oil. The crude product was used in the next reaction without purification. MS calculated for C20H30N2O2: (M+H)331; found 331.2.

reactant | tert-Butyl {(1R,3S)-3-[(4-hydroxy-4-phenylpiperidin-1-yl)carbonyl]-3-isopropyl-cyclopentyl}carbamate | 0.70 mmol, 0.30 g | OC1(CCN(CC1)C(=O)[C@@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(C)C)C1=CC=CC=C1 | C25H38N2O4
solvent | HCl | Cl | ClH
solvent | ether | 10 mL | CCOCC | C4H10O
catalyst | MeOH | a few drops | CO | CH4O
product | 1-{[(1S,3R)-3-Amino-1-isopropylcyclopentyl]carbonyl}-4-phenylpiperidin-4-ol | N[C@H]1C[C@@](CC1)(C(C)C)C(=O)N1CCC(CC1)(O)C1=CC=CC=C1 | C20H30N2O2
